US08048884B2
4-Fluoro-N-(2-{4-[2-(4-methoxymethyl-phenyl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-N-methyl-benzenesulfonamide hydrochloride
Dissolve N-{2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide (0.160 g, 0.387 mmol) in DME (5 mL, previously degassed with nitrogen). Add 4-(methoxymethyl)boronic acid (0.096 g, 0.581 mmol), 2N aqueous potassium carbonate (0.464 mL, 0.129 g, 0.930 mmol), and tetrakis(triphenylphosphine)-palladium (0.022 g, 0.022 mmol). Stir the reaction mixture at 80° C. for 18 hr. Increase the temperature to 95° C. and stir an additional 8 hr. Add fresh catalyst (0.015 g) and boronic acid (0.050 g). Stir 18 hr. at 95° C. Cool to room temperature and concentrate to remove DME. Dilute with ethyl acetate and brine. Extract the aqueous layer with ethyl acetate. Combine the organic phases, dry over sodium sulfate, filter, and concentrate. Purify by silica gel chromatography eluting with dichloromethane:methanol 98:2 to 90:10 to afford the free base of the title compound (0.075 g). Prepare the hydrochloride salt by dissolving the free base (0.075 g) in acetone (2 mL) and adding 1N HCl in diethyl ether (0.165 mL, 0.165 mmol). Stir for 20 min. at room temperature and then add diethyl ether to precipitate the salt. Wash the salt with diethyl ether and dry to afford the title compound (0.079 g, 38% yield). MS ES: m/z=499 [M+H]+.

reactant | N-{2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide | 0.387 mmol, 0.160 g | ClC1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)F)C | C18H22ClFN4O2S
reactant | potassium carbonate | 0.930 mmol, 2N, 0.464 mL, 0.129 g | C([O-])([O-])=O.[K+].[K+]
reactant | boronic acid | 0.050 g | B(O)O | BH3O2
reactant | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.022 mmol, 0.022 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Fluoro-N-(2-{4-[2-(4-methoxymethyl-phenyl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-N-methyl-benzenesulfonamide hydrochloride | 0.075 g | Cl.FC1=CC=C(C=C1)S(=O)(=O)N(C)CCN1CCN(CC1)C=1C(=NC=CC1)C1=CC=C(C=C1)COC | InChI=1S/C26H31FN4O3S.ClH/c1-29(35(32,33)24-11-9-23(27)10-12-24)14-15-30-16-18-31(19-17-30)25-4-3-13-28-26(25)22-7-5-21(6-8-22)20-34-2;/h3-13H,14-20H2,1-2H3;1H
